US09353096B2
In a 50 mL round-bottom flask, (2S)-3-(2-(3,5-dichlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol (665 mg, 1.93 mmol) was combined with dichloromethane (12 ml) to give a colorless solution. TEA (196 mg, 269 μl, 1.93 mmol) was added. 1-chloro-4-isocyanatobenzene (326 mg, 2.13 mmol) was added. The reaction mixture was stirred at room temperature overnight. Two major close-running spots of similar intensity could be seen by TLC (silica 10% EtOAc in hexanes eluent), a front-running spot and a later-running spot. The crude material was purified by flash chromatography (silica gel, 40 g, 5% to 20% EtOAc in hexanes gradient). The fractions that contained mostly front peak were pooled, concentrated and purified again by chromatography (silica, 40 g, 5-15% (3:1 dichloromethane:EtOAc) in hexane gradient) affording pure front peak product, assigned as (4-chloro-phenyl)-carbamic acid (S)-1-[(R)-2-(3,5-dichloro-phenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester. This product was taken up in ether (30 mL) and treated with 1M HCl in ether (2.5 mL). Hexanes was added and the mixture was concentrated in vacuo to afford (4-chloro-phenyl)-carbamic acid (S)-1-[(R)-2-(3,5-dichloro-phenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester hydrochloride (185 mg) as an off-white powder. (M+H)+=497, 499 m/e.

reactant | (2S)-3-(2-(3,5-dichlorophenyl)morpholino)-1,1,1-trifluoropropan-2-ol | 1.93 mmol, 665 mg | ClC=1C=C(C=C(C1)Cl)C1OCCN(C1)C[C@@H](C(F)(F)F)O | C13H14Cl2F3NO2
reactant | 1-chloro-4-isocyanatobenzene | 2.13 mmol, 326 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | (4-chloro-phenyl)-carbamic acid (S)-1-[(R)-2-(3,5-dichloro-phenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester | ClC=1C=C(C=C(C1)Cl)[C@@H]1CN(CCO1)C[C@@H](C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O | C20H18Cl3F3N2O3
reactant | HCl | 1M | Cl | ClH
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 2.5 mL | CCOCC | C4H10O
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | (4-chloro-phenyl)-carbamic acid (S)-1-[(R)-2-(3,5-dichloro-phenyl)-morpholin-4-ylmethyl]-2,2,2-trifluoro-ethyl ester hydrochloride | 185 mg | Cl.ClC=1C=C(C=C(C1)Cl)[C@@H]1CN(CCO1)C[C@@H](C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O | InChI=1S/C20H18Cl3F3N2O3.ClH/c21-13-1-3-16(4-2-13)27-19(29)31-18(20(24,25)26)11-28-5-6-30-17(10-28)12-7-14(22)9-15(23)8-12;/h1-4,7-9,17-18H,5-6,10-11H2,(H,27,29);1H/t17-,18-;/m0./s1
